US06015829
To a solution (10 ml) of ethyl 5-chloro-1-(3-cyano-4-neopentyloxyphenyl)pyrazole-4-carboxylate (1.01 g) in ethanol was added 1 N aqueous sodium hydroxide solution (3.4 ml) with stirring, and the mixture was heated at 60° C. for 1 hour. After the completion of the reaction, the reaction mixture was poured into water and neutralized with acetic acid. The precipitated crystals were recrystallized from ethyl acetate to give 0.46 g of 5-chloro-1-(3-cyano-4-neopentyloxyphenyl)pyrazole-4-carboxylic acid, melting point 212° C.

reactant | ethyl 5-chloro-1-(3-cyano-4-neopentyloxyphenyl)pyrazole-4-carboxylate | 10 ml, 1.01 g | ClC1=C(C=NN1C1=CC(=C(C=C1)OCC(C)(C)C)C#N)C(=O)OCC | C18H20ClN3O3
reactant | sodium hydroxide | 1 N, 3.4 ml | [OH-].[Na+]
reactant | water | O | H2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-1-(3-cyano-4-neopentyloxyphenyl)pyrazole-4-carboxylic acid | 0.46 g | ClC1=C(C=NN1C1=CC(=C(C=C1)OCC(C)(C)C)C#N)C(=O)O | C16H16ClN3O3
